US05859044
1-(4-Amino-benzyl)-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic Acid Ethyl Ester
A solution of crude 5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1-(4-nitrobenzyl)-1H-indole-2-carboxylic acid ethyl ester (2.4 g, ≈5 mmol) in dry tetrahydrofuran (20 ml) was shaken in a Parr apparatus with 10% palladium on carbon (200 mg) under 40 psi hydrogen for about four hours. The mixture was filtered and evaporated under reduced pressure to give the title compound (2.03 g), which was reacted without further purification.

reactant | 5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1-(4-nitrobenzyl)-1H-indole-2-carboxylic acid ethyl ester | ≈5 mmol, 2.4 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC1(OCCO1)C)CC1=CC=C(C=C1)[N+](=O)[O-] | C23H24N2O6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 1-(4-Amino-benzyl)-5-(2-methyl-[1,3]dioxolan-2-ylmethyl)-1H-indole-2-carboxylic Acid Ethyl Ester | 2.03 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)CC1(OCCO1)C)CC1=CC=C(C=C1)N | C23H26N2O4
